US08039472B2
NaH (60% dispersion in mineral oil, 68.5 mg, 1.71 mmol) is added to solution of methyl indole-4-carboxylate (200 mg, 1.142 mmol) in DMF (5 ml) and the resulting suspension is stirred at room temperature for 20 minutes. After this time (2-bromoethoxy)benzene (298 mg, 1.484 mmol) is added and the reaction is stirred at room temperature for 18 hours. Dilution with EtOAc (50 ml) and washing with water (25 ml×2), saturated NaHCO3 (25 ml) and brine (25 ml), drying over MgSO4, concentration in vacuo and purification by chromatography (SiO2, EtOAc/iso-hexane) affords 1-(2-Phenoxy-ethyl)-1H-indole-4-carboxylic acid methyl ester; [M+H]+ 296

reactant | NaH | 1.71 mmol, 68.5 mg | [H-].[Na+]
reactant | methyl indole-4-carboxylate | 1.142 mmol, 200 mg | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | (2-bromoethoxy)benzene | 1.484 mmol, 298 mg | BrCCOC1=CC=CC=C1 | C8H9BrO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(2-Phenoxy-ethyl)-1H-indole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C=CN(C2C=CC1)CCOC1=CC=CC=C1 | C18H17NO3
